US07897766B2
Thieno[2,3-c]pyridine-5-carboxylic acid(4s)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide dihydrochloride
Prepared from (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and thieno[2,3-c]pyridine-5-carboxylic acid (Tetrahedron Lett. 1999, 40, 7935) according to methods A and C; yield 82 mg, 0.21 mmol (59%): 1H NMR (300 MHz, methanol-d4) δ 2.03 (d, J=14 Hz, 2H), 2.25 (s, 1H), 2.39 (d, J=14 Hz, 2H), 2.55 (s, 2H), 3.61 (s, 2H), 3.72 (s, 4H), 4.54 (s, 1H), 7.91 (d, J=5 Hz, 1H), 8.62 (d, J=5 Hz, 1H), 9.01 (s, 1H), 9.57 (s, 1H); MS (DCI/NH3) m/z 314 (M+H)+; Anal. C17H19N3OS.2HCl.1.0H2O: C, H, N.

reactant | (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@@H](C(CC(C1)C3)C2)N
reactant | thieno[2,3-c]pyridine-5-carboxylic acid | S1C=CC=2C1=CN=C(C2)C(=O)O | C8H5NO2S
reactant | NH3 | N | H3N
product | Thieno[2,3-c]pyridine-5-carboxylic acid(4s)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide dihydrochloride | Cl.Cl.N12CC3[C@@H](C(CC(C1)C3)C2)NC(=O)C=2C=C3C(=CN2)SC=C3 | InChI=1S/C17H19N3OS.2ClH/c21-17(14-5-11-1-2-22-15(11)6-18-14)19-16-12-3-10-4-13(16)9-20(7-10)8-12;;/h1-2,5-6,10,12-13,16H,3-4,7-9H2,(H,19,21);2*1H/t10?,12?,13?,16-;;
